US05196610
A mixture of ethoxybenzene (67 g), chloropentafluoroacetone (100 g) and aluminium chloride (7 g) was charged to a Hastalloy lined cell at -78° C., the cell sealed and heated to 120° C. for 8 hours. After cooling and venting, the residue was taken up in chloroform and filtered through silica gel. After removal of the solvent by evaporation the residual solid was recrystallised from n-hexane to yield several crops of 1,1,1,3,3-pentafluoro-2-(4-ethoxyphenyl)-3-chloropropan-2-ol. (Total 70 g) mp. 84°-86° C.

reactant | ethoxybenzene | 67 g | C(C)OC1=CC=CC=C1 | C8H10O
reactant | chloropentafluoroacetone | 100 g | ClC(C(=O)C(F)(F)F)(F)F | C3ClF5O
reactant | aluminium chloride | 7 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1,1,1,3,3-pentafluoro-2-(4-ethoxyphenyl)-3-chloropropan-2-ol | FC(C(C(Cl)(F)F)(O)C1=CC=C(C=C1)OCC)(F)F | C11H10ClF5O2
